US07348323B2
Step 5: [5-(4-Cyclopentyl-piperazin-1-yl)-1H-pyrrolo[2,3-c]pyridin-2-yl]-pyrrolidin-1-yl-methanone
A mixture of 0.46 g (1.31 mmol) 5-(4-cyclopentyl-piperazin-1-yl)-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid 0.56 mL (6.6 mmol) oxalylchloride and 0.03 mL DMF in 30 mL DCM was stirred at room temperature for 1 h and evaporated to dryness. An aliquot containing 0.054 mmol of the intermediately built acid chloride was treated with 27 mg (0.27 mmol) triethylamine and 11.6 mg (0.16 mmol) pyrrolidine in 2 mL DCM during 16 h at room temperature. After evaporation of all volatiles the residue was taken up in a mixture of DMF/methanol/water/NEt3 and subjected to preparative HPLC purification on reversed phase eluting with a acetonitrile/water (0.05% NEt3) gradient. After evaporation of the product fractions 4.1 mg (14%) of the title compound was obtained.

reactant | 5-(4-cyclopentyl-piperazin-1-yl)-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid | 1.31 mmol, 0.56 mL, 0.46 g | C1(CCCC1)N1CCN(CC1)C=1C=C2C(=CN1)NC(=C2)C(=O)O | C17H22N4O2
reactant | DMF | 0.03 mL | CN(C)C=O | C3H7NO
reactant | triethylamine | 0.27 mmol, 27 mg | C(C)N(CC)CC | C6H15N
reactant | pyrrolidine | 0.16 mmol, 11.6 mg | N1CCCC1 | C4H9N
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | [5-(4-Cyclopentyl-piperazin-1-yl)-1H-pyrrolo[2,3-c]pyridin-2-yl]-pyrrolidin-1-yl-methanone | C1(CCCC1)N1CCN(CC1)C=1C=C2C(=CN1)NC(=C2)C(=O)N2CCCC2 | C21H29N5O
